US07858624B2
tert-butyl (2S,3S)-5-(butylamino)-1-cyclohexyl-3-hydroxy-5-oxopentan-2-ylcarbamate (394 mg, 1.1 mmol) was dissolved in 4M HCl in dioxane (5 mL, 200 mmol and stirred at rt for 4 h. Removal of the solvent left a sticky solid (344 mg). This material was taken up in 10% aq K2CO3 (20 mL) and extracted with CH2Cl2 (4×30 mL). The combined CH2Cl2 extracts were dried over MgSO4 and concentrated to afford (3S,4S)-4-Amino-N-butyl-5-cyclohexyl-3-hydroxypentanamide (279 mg, 97%).

reactant | tert-butyl (2S,3S)-5-(butylamino)-1-cyclohexyl-3-hydroxy-5-oxopentan-2-ylcarbamate | 1.1 mmol, 394 mg | C(CCC)NC(C[C@@H]([C@H](CC1CCCCC1)NC(OC(C)(C)C)=O)O)=O | C20H38N2O4
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3S,4S)-4-Amino-N-butyl-5-cyclohexyl-3-hydroxypentanamide | 279 mg, 97% | N[C@H]([C@H](CC(=O)NCCCC)O)CC1CCCCC1 | C15H30N2O2
